US06174901B1
Procedure for the Preparation of 3-phenylbutylamine
A mixture of 3-phenylbutyraldehyde (3 ml, 20.18 mmol), ammonium acetate (15 g, 195 mmol) and sodium cyanoborohydride (900 mg, 14.32 mmol) in methanol (50 ml) was stirred overnight under an argon atmosphere. The reaction was acidified to pH 2 by the addition of conc HCl. The solvent was evaporated, dichloromethane and water were added, and the aqueous layer was made basic (pH 12) by the addition of solid potassium hydroxide. Extraction (dichloromethane) and concentration gave the title compound as an oil. ES-MS (m/z): 150.2 (M+H)+; 1H NMR (CDCl3): d 7.40-7.17 (m, 5H, Ph), 2.81 (q, 1H, CH), 2.62 (m, 2H, CH2), 1.76 (dq, 2H, CH2), 1.29 (d, 3H, CH3).

reactant | 3-phenylbutyraldehyde | 20.18 mmol, 3 ml | C1(=CC=CC=C1)C(CC=O)C | C10H12O
reactant | ammonium acetate | 195 mmol, 15 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 14.32 mmol, 900 mg | C(#N)[BH3-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-phenylbutylamine | C1(=CC=CC=C1)C(CCN)C | C10H15N
